* source LM5176_TRANS
X_U2         0 VOSNS- BOOT1 BOOT2 COMP CS CSG DITH EN FB HDRV1 HDRV2 N16806770
+  N16806697 LDRV1 LDRV2 MODE 0 0 N16806749 RT_SYNC SLOPE SS SW1 SW2 VCC
+  N16806353 VINSNS VOSNS- LM5176_TRANS PARAMS: SS=0
C_C24         N16806770 N16806697  1u IC=0 
R_R51         N16806490 LDRV2  0.6  
C_C3         VIN 0  2.2u IC=0 
R_R53         HDRV1 N16806513  1.6  
R_R8         CSG 0  100  
C_C21         SS 0  10n  
R_R14         N16806635 FB  280k  
X_C7         VOSNS+ 0 CESR PARAMS: C=2.2u ESR=2m IC=1N X=1
X_C13         VOSNS- 0 CESR PARAMS: C=100u ESR=16m IC=0 X=1
R_R21         VOSNS+ N16806770  100  
C_C5         VIN 0  2.2u IC=0 
D_D9         N16806389 SW1 Dbreak 
X_L1         SW1 SW2 LDCR PARAMS: L=4.7u DCR=3.35m
C_C22         N168069590 COMP  0.033u IC=0 
R_R6         CS N16806389  100  
D_D4         VCC BOOT1 Dbreak 
R_R9         N16806366 N16806353  10  
R_R7         0 N16806389  0.004  
X_S14    N16806496 N16806389 SW1 N16806389 Startup_S14 
C_C32         VIN 0  2.2u IC=0 
R_R22         0 FB  20k  
X_C10         VOSNS+ 0 CESR PARAMS: C=2.2u ESR=2m IC=1N X=1
R_R16         VOSNS- N16806697  100  
R_R1         VOSNS+ VOSNS-  4m  
R_RLOAD         VOSNS- 0  {12/7}  
D_D7         SW1 VIN Dbreak 
C_C16         VCC 0  4.7u  
C_C25         0 VOSNS-  0.22u IC=0 
R_R13         VIN EN  249k  
C_C30         VOSNS- 0  100p IC=0 
C_C18         BOOT1 SW1  100n IC=0 
C_C28         0 COMP  330pF  
R_R15         VIN VINSNS  2k  
R_R18         EN 0  75k  
C_C17         N16806353 0  0.1u  
D_D10         N16806389 SW2 Dbreak 
R_R50         N16806536 HDRV2  0.6  
X_S4    N16806490 N16806389 SW2 N16806389 Startup_S4 
C_C4         VIN 0  2.2u IC=0 
R_R11         VOSNS- N16806635  10  
X_S5    N16806513 SW1 VIN SW1 Startup_S5 
R_R19         0 MODE  93.1k  
R_R10         N16806749 VCC  10k  
X_C8         VOSNS+ 0 CESR PARAMS: C=2.2u ESR=2m IC=1N X=1
D_D8         SW2 VOSNS+ Dbreak 
D_D3         VIN N16806366 Dbreak 
X_C9         VOSNS+ 0 CESR PARAMS: C=2.2u ESR=2m IC=1N X=1
C_C1         VIN 0  100u IC=0 
R_R23         0 N168069590  20k  
R_R55         LDRV1 N16806496  1.6  
C_C2         VIN 0  2.2u IC=0 
V_VIN         VIN 0  
+PWL 0 0 1u 0 100u 12 10m 12 
C_C29         0 SLOPE  470p IC=0 
C_C19         BOOT2 SW2  100n IC=0 
X_C11         VOSNS+ 0 CESR PARAMS: C=2.2u ESR=2m IC=1N X=1
X_S6    N16806536 SW2 VOSNS+ SW2 Startup_S6 
D_D5         VCC BOOT2 Dbreak 
C_C15         CS CSG  47p IC=0 
X_C33         VOSNS- 0 CESR PARAMS: C=100u ESR=16m IC=0 X=1
X_C34         VOSNS- 0 CESR PARAMS: C=100u ESR=16m IC=0 X=1
X_C35         VOSNS- 0 CESR PARAMS: C=100u ESR=16m IC=0 X=1
X_C36         VOSNS- 0 CESR PARAMS: C=100u ESR=16m IC=0 X=1
X_C37         VOSNS- 0 CESR PARAMS: C=100u ESR=16m IC=0 X=1
C_C38         0 DITH  10n  TC=0,0 
R_R20         0 RT_SYNC  33.2k  
R_R56         0 DITH  1G TC=0,0 

.subckt Startup_S14 1 2 3 4  
S_S14         3 4 1 2 _S14
RS_S14         1 2 1G
.MODEL         _S14 VSWITCH Roff=10e10 Ron=3.9m Voff=2.1 Von=2.8
.ends Startup_S14

.subckt Startup_S4 1 2 3 4  
S_S4         3 4 1 2 _S4
RS_S4         1 2 1G
.MODEL         _S4 VSWITCH Roff=10e10 Ron=1.4m Voff=1.2 Von=1.7
.ends Startup_S4

.subckt Startup_S5 1 2 3 4  
S_S5         3 4 1 2 _S5
RS_S5         1 2 1G
.MODEL         _S5 VSWITCH Roff=10e10 Ron=3.9m Voff=2.1 Von=2.8
.ends Startup_S5

.subckt Startup_S6 1 2 3 4  
S_S6         3 4 1 2 _S6
RS_S6         1 2 1G
.MODEL         _S6 VSWITCH Roff=10e10 Ron=1.4m Voff=1.2 Von=1.7
.ends Startup_S6
